US06384072B1
To a mixture of [(5SR,6SR)-1,5,6-trihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]methyl N,N-diphenylcarbamate (461 mg) and potassium carbonate (304 mg) in DMF (8 ml) was added ethyl bromoacetate (0.244 ml) and stirred at room temperature for 18 hours. The reaction mixture was diluted with EtOAc, washed with water and then brine. It was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-EtOAc 4:5) to give ethyl {[(5SR,6SR)-6-(N,N-diphenylcarbamoyloxy)methyl-5,6-dihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-1 -yl]oxy}acetate (459.6 mg) as an amorphous solid.

reactant | [(5SR,6SR)-1,5,6-trihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]methyl N,N-diphenylcarbamate | 461 mg | C1(=CC=CC=C1)N(C(OCC1(C(C2=C(CCC1)C(=CC=C2)O)O)O)=O)C2=CC=CC=C2 | C25H25NO5
reactant | potassium carbonate | 304 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.244 ml | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl {[(5SR,6SR)-6-(N,N-diphenylcarbamoyloxy)methyl-5,6-dihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-1 -yl]oxy}acetate | 459.6 mg | C1(=CC=CC=C1)N(C(=O)OCC1(C(C2=C(CCC1)C(=CC=C2)OCC(=O)OCC)O)O)C2=CC=CC=C2 | C29H31NO7
